US05721234
Preparation of piperidine-4-carboxylic acid (6-nitro-2,3-dioxo-1,2,3,4,7,8,9,10-octahydro-benzo[f]quinoxalin-9-yl) amide
N-t-butyloxycarbonylpiperidine-4-carboxylic acid (0.35 g, 1.5 mmol) and carbonyldiimidazole (0.24 g, 1.5 mmol) were refluxed in tetrahydrofuran (5 mL) for 15 min. The mixture was added to a solution of 9-amino-6-nitro-1,4,7,8,9,10-hexahydro-benzo[f]quinoxaline-2,3-dione (0.15 g, 1.5 mmol) in dimethylformamide (5 mL) and heated to 70° C. After 15 min, triethylamine (0.15 g, 1.5 mmol) was added and heating continued at 70° C. for 6 h. The solvent was removed by rotoevaporation in vacuo and the residue triturated with diethyl ether to form a solid. The solid was collected by filtration, washed with water and dried to give the crude product (0.23 g, 94% yield). For further purification, the solid was suspended and stirred in 2N HCl, and then filtered and dried. Anal. calc'd for C23H29N5O7.1.5 NaCl.H2O: C, 40.82; H, 4.57; N, 13.22; found-C, 40.35; H, 4.70:N, 12.91.

reactant | N-t-butyloxycarbonylpiperidine-4-carboxylic acid | 1.5 mmol, 0.35 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | carbonyldiimidazole | 1.5 mmol, 0.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 9-amino-6-nitro-1,4,7,8,9,10-hexahydro-benzo[f]quinoxaline-2,3-dione | 1.5 mmol, 0.15 g | NC1CCC2=C(C=3NC(C(NC3C=C2[N+](=O)[O-])=O)=O)C1 | C12H12N4O4
reactant | triethylamine | 1.5 mmol, 0.15 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | piperidine-4-carboxylic acid (6-nitro-2,3-dioxo-1,2,3,4,7,8,9,10-octahydro-benzo[f]quinoxalin-9-yl) amide | 0.23 g, 94% yield | [N+](=O)([O-])C=1C2=C(C=3NC(C(NC3C1)=O)=O)CC(CC2)NC(=O)C2CCNCC2 | C18H21N5O5
